US08685969B2
2. Benzyl 2-methyl-3-(2-nitro-1-(6-(tetrahydrofuran-3-yloxy)-1H-indol-3-yl)ethyl)phenylcarbamate
6-(Tetrahydrofuran-3-yloxy)-1H-indole (0.632 g, 3.11 mmol) and (E)-benzyl 2-methyl-3-(2-nitrovinyl)phenylcarbamate (0.800 g, 2.56 mmol) were dissolved in THF (50 mL). The solution was then concentrated under vacuum to dryness. The solid mixture was melted at 130° C. and heated at this temperature for 6 hr. The mixture was subjected to ISCO (120 g silica gel, solid loading, 25-65% ethyl acetate/hexane) to afford the desired product (0.612 g, 1.187 mmol, 46.3% yield) as a beige solid.

reactant | 6-(Tetrahydrofuran-3-yloxy)-1H-indole | 3.11 mmol, 0.632 g | O1CC(CC1)OC1=CC=C2C=CNC2=C1 | C12H13NO2
reactant | (E)-benzyl 2-methyl-3-(2-nitrovinyl)phenylcarbamate | 2.56 mmol, 0.800 g | CC1=C(C=CC=C1\C=C\[N+](=O)[O-])NC(OCC1=CC=CC=C1)=O | C17H16N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Benzyl 2-methyl-3-(2-nitro-1-(6-(tetrahydrofuran-3-yloxy)-1H-indol-3-yl)ethyl)phenylcarbamate | 1.187 mmol, 0.612 g, 46.3% yield | CC1=C(C=CC=C1C(C[N+](=O)[O-])C1=CNC2=CC(=CC=C12)OC1COCC1)NC(OCC1=CC=CC=C1)=O | C29H29N3O6
